US05780500
A mixture of 1.1 g (3.044 mmol) of N-(dibenz[b,f]oxepin-10-ylmethyl-prop-2-ynyl-carbamic acid tert-butyl ester and 1.45 ml of methanesulfonic acid in 1 ml of dioxane and 9 ml of dichloromethane is stirred for 1hour at room temperature, 2N sodium hydroxide solution is added and the mixture is extracted 2× with dichloromethane. The organic phase is concentrated using a rotary evaporator, taken up in ethyl acetate and extracted 3× with 1N hydrochloric acid, and the aqueous phase is rendered basic with potassium hydroxide pellets, extracted 3× with dichloromethane, dried over sodium sulfate and concentrated. The crude light-brown oil is dissolved in 2N ethereal hydrochloric acid and concentrated. The crude hydrochloride (beige crystals) is recrystallised from ethyl acetate/methanol. 386 mg (1.30 mmol)=42% of N-(dibenz[b,f]oxepin-10-ylmethyl)-N-prop-2-ynylamine hydrochloride alias 10-propargylaminomethyldibenz[b,f]oxepine hydrochloride are obtained in the form of white crystals; melting point: 181°-183° C.; MS: 261 (M+, free base), 222, 181, 165, 152.

reactant | dibenz[b,f]oxepin-10-ylmethyl-prop-2-ynyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC#C)CC1=CC2=C(OC3=C1C=CC=C3)C=CC=C2)=O | C23H23NO3
reactant | methanesulfonic acid | 1.45 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-(dibenz[b,f]oxepin-10-ylmethyl)-N-prop-2-ynylamine hydrochloride | 42% | Cl.C1=CC=CC=2OC3=C(C(=CC21)CNCC#C)C=CC=C3 | InChI=1S/C18H15NO.ClH/c1-2-11-19-13-15-12-14-7-3-5-9-17(14)20-18-10-6-4-8-16(15)18;/h1,3-10,12,19H,11,13H2;1H
